US05149700
Step 3) Preparation of 1-N-(2-Iodoethyl)-2,3-dihydro-1H-imidazo[1,2-a]benzimidazole
A mixture of NaI (1.73 g, 11.57 mmol) and 2-butanone (20 mL) was heated under reflux for 30 minutes 1-N-(2-Chloroethyl)-2,3-dihydro-1H-imidazo[1,2-a]benzimidazole (1.70 g, 7.71 mmol) and additional 2-butanone (5 mL) were added and heating was continued for 5 hours. EtOAc (50 mL) was added and the mixture was filtered. The filtrate was washed with H2O, 10% sodium bisulfite (25 mL), saturated aqueous NaHCO3, dried (MgSO4) and concentrated to give 2.2 g (92%) of a light brown solid m.p. 101°-103° C.

reactant | NaI | 11.57 mmol, 1.73 g | [Na+].[I-]
reactant | 2-butanone | 20 mL | CC(CC)=O | C4H8O
reactant | 1-N-(2-Chloroethyl)-2,3-dihydro-1H-imidazo[1,2-a]benzimidazole | 7.71 mmol, 1.70 g | ClCCN1CCN2C1=NC1=C2C=CC=C1 | C11H12ClN3
reactant | 2-butanone | 5 mL | CC(CC)=O | C4H8O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 1-N-(2-Iodoethyl)-2,3-dihydro-1H-imidazo[1,2-a]benzimidazole | 2.2 g, 92% | ICCN1CCN2C1=NC1=C2C=CC=C1 | C11H12IN3
